US08530483B2
4-Methoxy-benzoyl chloride (4.15 mL, 30.7 mmol) was added dropwise to a stirred, cooled 0° C. mixture of 2,6-dichloro-pyridin-3-ylamine (5 g, 30.7 mmol) in pyridine (31 mL). Following addition, the reaction mixture was allowed to warm to room temperature and stirring was continued for 30 minutes, at which point the reaction mixture was poured into water causing the formation of a precipitate which was collected by filtration. The collected solids were washed with additional water before drying overnight in vacuo affording N-(2,6-dichloro-pyridin-3-yl)-4-methoxy-benzamide (8.66 g, 29.1 mmol, 95% yield) which was used in subsequent reactions without further purification. ES MS (M+H+)=297.

reactant | 4-Methoxy-benzoyl chloride | 30.7 mmol, 4.15 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 2,6-dichloro-pyridin-3-ylamine | 30.7 mmol, 5 g | ClC1=NC(=CC=C1N)Cl | C5H4Cl2N2
reactant | water | O | H2O
solvent | pyridine | 31 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,6-dichloro-pyridin-3-yl)-4-methoxy-benzamide | 29.1 mmol, 8.66 g, 95% yield | ClC1=NC(=CC=C1NC(C1=CC=C(C=C1)OC)=O)Cl | C13H10Cl2N2O2
